Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Headache 
 
Major Surgical or Invasive Procedure:
Lumbar puncture 

 
History of Present Illness:
The patient is a ___ year old woman with history of migraines,
chronic insomnia who presents with 3 day history of severe
headache and left face and arm parasthesias. History obtained
from patient.

Ms. ___ reports she was in her usual state of health until
___ afternoon. She was playing with her nephew outside in the
yard, when she developed acute onset of headache. This was
different than her typical migraine. The headache reached its
maximal intensity in 5 minutes. The pain was located above the
left eye, with temporal radiation. The pain is described as
"someone smashing me in the face with a baseball bat" and
"sharp." The headache was not throbbing (unlike her typical
migraines, which are throbbing). She had associated parasthesias
of the left face, described as "pins and needles" and "the
feeling when you have had novacaine wearing off." She also had
associated diminished peripheral vision out of the left eye,
described as "a spot of the vision that's just missing."  No
associated nausea/vomiting, no photophobia, no phonophobia. It
was not positional. It was not worsened with valsalva. It was 
not
worsened with activity. The headache was severe for 2 hours, 
then
became less severe in intensity, and ultimately resolved after
___ hours. The parasthesias in her left face persisted.  

The following day, the patient's headache resumed for a few
hours, similar to above, then resolved. There were no clear
triggers before this headache. 

Throughout this time, the patient's left face parasthesias and
diminished peripheral vision persisted. This morning, she
developed parasthesias of the left arm. She has had no further
headache since ___ (2 days ago).  The parasthesias are not
positional or brought on by exertion; they are persistent.

Prior to the onset of headache 3 days ago, patient reports she
has had decreased sleep recently. She has been getting 4 hours 
of
sleep a night, typically between 0100 and 0500, for the last 2
weeks due to excessive schoolwork and stress from graduate
school. She otherwise denies recent illness, denies
fevers/chills, denies sick contacts, denies changes to
medications, denies recent travel.

Ms. ___ has a history of chronic migraines. Her typical
migraines occur above the left eye, are gradual in onset, and
throbbing in quality. Sometimes she has an associated aura of
flashing lights or bilateral peripheral vision loss. She has
never had unilateral peripheral vision complaints, as she does 
in
this case. Her typical migraines occur once a week and last
somewhere between a few hours to days. She has associated
photophobia, nausea and positive visual phenomena (seeing
"floaties").  She is on topamax 50mg BID, which she has been on
for a year. For abortive therapy she takes Naproxen first-line 
at
onset, which usually aborts the headache. She takes Naproxen ___
times per week. If Naproxen doesn't work she takes Maxalt, which
amounts to a few times per month. She is not followed by a
neurologist. She is followed by her PCP for migraine. 

Of note the patient has a history of chronic insomnia, often
getting no more than ___ hours of sleep during weekdays, and 8
hours on weekends. Her sleep has been especially poor lately 
over
the last 2 weeks. 

The patient has had a longstanding mirena IUD.

On neuro ROS, the pt denies headache, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits. 
Denies any urinary symptoms. No dysuria.  Denies arthralgias or
myalgias. Denies rash.
 
Past Medical History:
-Chronic migraines
-Chronic insomnia
 
Social History:
___
Family History:
Her mother has migraines. Denies any family history of
stroke or blood clots in her family. Denies early history of 
CAD.
 
Physical Exam:
Admission physical exam:
Vitals: T97.9F, HR 103, BP 154/91, RR 16, O2 100% RA

General: Awake, overweight woman, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity. Negative Kernig and Brudzinski
tests. 
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4mm to 2mm and brisk. VFF to confrontation via finger
wiggling, including testing with either eye individually. On
fundoscopic exam, disc margins were very difficult to visualize
and blurred, likely papilledema. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: 
*Pinprick: Diminished in the left hemiface, where V1-2 sensation
is 75% of normal and V3 is 50% of normal. Does not split the
midline. On pinprick testing of the left arm, sensation is 75% 
of
normal circumferentially extending from the neck to the hand; no
sensory loss in the hand. 
*Proprioception: Intact throughout, including skin stroking in
the left face and arm 
No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge physical exam:

Vitals: afebrile, reviewed in OMR
General: Awake, overweight woman, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity. Negative Kernig and Brudzinski
tests. 
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive. 
Language is fluent with intact comprehension. Normal prosody. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4mm to 2mm and brisk. VFF to confrontation via finger
wiggling, including testing with either eye individually. On
fundoscopic exam, disc margins were very difficult to visualize
and blurred, likely papilledema. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: 
*Pinprick: Diminished in the left hemiface, where V1-2 sensation
is 75% of normal and V3 is 50% of normal. Does not split the
midline. On pinprick testing of the left arm, sensation is 75% 
of
normal circumferentially extending from the neck to the hand; no
sensory loss in the hand. 
*Proprioception: Intact throughout, including skin stroking in
the left face and arm 
No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred 
 
Pertinent Results:
___ 03:59PM CEREBROSPINAL FLUID (CSF)  PROTEIN-27 
GLUCOSE-64
___ 03:59PM CEREBROSPINAL FLUID (CSF)  TNC-1 RBC-0 POLYS-0 
___ ___ 06:21AM   GLUCOSE-91 UREA N-10 CREAT-0.6 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-26 ANION GAP-11
___ 06:21AM   ALT(SGPT)-27 AST(SGOT)-23 ALK PHOS-51 TOT 
BILI-0.5
___ 06:21AM   ALBUMIN-4.2 CALCIUM-9.0 PHOSPHATE-3.2 
MAGNESIUM-2.0
___ 06:21AM   WBC-10.2* RBC-4.39 HGB-12.7 HCT-38.8 MCV-88 
MCH-28.9 MCHC-32.7 RDW-13.0 RDWSD-42.1
___ 06:21AM   PLT COUNT-211
___ 06:21AM   ___ PTT-26.1 ___
___ 11:40PM   VIT B12-317
___ 11:40PM   TSH-3.2
___ 11:40PM   FREE T4-1.2
___ 03:54PM   GLUCOSE-92 UREA N-11 CREAT-0.7 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-27 ANION GAP-13
___ 03:54PM   estGFR-Using this
___ 03:54PM   WBC-11.9* RBC-4.68 HGB-13.7 HCT-41.8 MCV-89 
MCH-29.3 MCHC-32.8 RDW-13.2 RDWSD-42.8
___ 03:54PM   NEUTS-67.9 ___ MONOS-7.2 EOS-0.9* 
BASOS-0.8 IM ___ AbsNeut-8.05* AbsLymp-2.71 AbsMono-0.85* 
AbsEos-0.11 AbsBaso-0.10*
___ 03:54PM   PLT COUNT-255
___ 03:54PM   ___ PTT-26.7 ___
___ 02:16PM URINE  HOURS-RANDOM
___ 02:16PM URINE  UCG-NEGATIVE
___ 02:16PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 02:16PM URINE  BLOOD-NEG NITRITE-POS* PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 02:16PM URINE  RBC-5* WBC-8* BACTERIA-FEW* YEAST-NONE 
EPI-26
___ 02:16PM URINE  HYALINE-5*
___ 02:16PM URINE  MUCOUS-OCC*

Imaging / studies:

MR ___
IMPRESSION: 
1. No evidence for fracture, subluxation, abnormal cord signal 
or abnormal 
enhancement. No epidural collection. 
2. Multilevel spondylosis of the cervical spine, as detailed 
above. No 
evidence for severe canal stenosis or neural foraminal 
narrowing. 

 
Brief Hospital Course:
P: ___ year old woman admitted to the hospital for further 
management of headache, persistent L upper extremity and L 
facial tingling and numbness, found to have nasal optic disc 
margin blurring.
A: In the hospital we continued her home dose of Topamax BID. 
She also underwent an LP for evaluation of idiopathic 
intracranial hypertension, which showed normal opening pressure 
of 24.5, with normal basic studies. She developed a post-LP 
headache which responded to NSAIDs and IV fluids. We increased 
her prophylactic Topamax to 75mg BID and also started her on 
trial of low dose nortriptyline. MRI ___ was performed and 
revealed mild multilevel spondylosis but no spinal cord 
compression or neuroforaminal stenosis. Etiology of this 
headache likely a decompensation of her chronic migraine in 
setting of stressors.
C: N/A
T: [] continue outpatient headache management. Topamax could be 
further increased to 100mg BID if no added improvement. 
Nortriptyline may be extended or increased in dosage.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Topiramate (Topamax) 50 mg PO BID 

 
Discharge Medications:
1.  Nortriptyline 10 mg PO QHS 
RX *nortriptyline 10 mg 1 tab by mouth at bedtime Disp #*30 
Capsule Refills:*0 
2.  Topiramate (Topamax) 75 mg PO BID 
RX *topiramate 25 mg 3 tablet(s) by mouth twice a day Disp #*180 
Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for further management of 
persistent L upper extremity and L facial tingling and numbness. 
In the hospital we continued your home dose of Topamax BID. You 
also underwent an LP for evaluation of idiopathic intracranial 
hypertension. The LP was done here and showed mildly elevated 
opening pressure of 24.5, with the remained or the studies 
within normal limits. After the LP, you have developed a 
low-pressure headache, which has resolved after fluid hydration 
and pain control w/ ketolorac IV and acetaminophen.  

For headache control, we will increase your Topamax to 75mg 
twice daily. We will also add on small dose of Nortriptyline, at 
10mg nightly, for a 1 month trial to see if there is any added 
benefit.

Please follow with your PCP for continued care and management.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___